US07393873B2
N-[4-({[2-(2,4-dichlorophenoxy)phenyl]amino}sulfonyl)phenyl]-2,2,2-trifluoroacetamide
To a solution of 4-amino-N-[2-(2,4-dichlorophenoxy)phenyl]benzenesulfonamide (0.1 g, 0.244 mmol), in pyridine (1 mL) at 0 C was added trifluoroacetic anhydride (0.053 mL, 0.375 mmol). The reaction mixture was stirred for 2 hr at room temperature, concentrated in vacuo and the residue diluted with DMF (3 mL), treated with trifluoroacetic acid (2 drops) and purified directly by reverse phase HPLC waters Prepak C-18 column eluting with 5-95% CH3CN: water containing 0.1% TFA. The pure fractions were combined and lyophilized to afford the title compound. C20H13Cl2F3N2O4S MH+ requires 504.9998 found 505.0003. Proton NMR (400 MHz, CDCl3) δ 6.53 (d, J=8.8 Hz, 1H), 6.60 (d, J=1.2 and 8.2 Hz), 7.00-7.10 (m, 3H), 7.12 (t, J=7.2 Hz, 1H), 7.41 (d, J=2.5 Hz, 1H), 7.58 (d, J=8.8 Hz, 2H), 7.73 (dd, J=1.4 and 8 Hz), 7.77 (d, J=8.8 Hz, 2H), 7.95 (s, 1H).

reactant | 4-amino-N-[2-(2,4-dichlorophenoxy)phenyl]benzenesulfonamide | 0.244 mmol, 0.1 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC1=C(C=C(C=C1)Cl)Cl | C18H14Cl2N2O3S
reactant | trifluoroacetic anhydride | 0.375 mmol, 0.053 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-({[2-(2,4-dichlorophenoxy)phenyl]amino}sulfonyl)phenyl]-2,2,2-trifluoroacetamide | ClC1=C(OC2=C(C=CC=C2)NS(=O)(=O)C2=CC=C(C=C2)NC(C(F)(F)F)=O)C=CC(=C1)Cl | C20H13Cl2F3N2O4S
